US08283354B2
2-(7-Methyl-4-(piperazin-1-yl)quinazolin-2-yl)phenol (250 mg, 0.74 mmol) was suspended in anhydrous DMF (5 mL) and cooled to 0° C. internal temperature. Under an N2 atmosphere, (R)-2-hydroxy-4,4-dimethylpentanoic acid (125.4 mg, 0.858 mmol) was added followed by triethylamine (0.218 mL, 1.56 mmol). To this stirring solution was added HATU (356 mg, 0.936 mmol). After the complete addition of HATU, the mixture was allowed to warm to 10° C. After 45 min the reaction was complete, and it was quenched with an equal portion of ice water. A yellow precipitate formed which was collected by vacuum filtration and dissolved in CH2Cl2. This solution was desiccated with Na2SO4, filtered, and concentrated to give a viscous yellow-orange oil. The crude material was purified via silica gel chromatography using 88% CH2Cl2-hexanes (1:1) and 12% EtOAc to afford (R)-2-hydroxy-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-4,4-dimethylpentan-1-one as a faint yellow foam (265 mg, 76%). LC/MS: m/z 449.3 (M+H)+ at 2.75 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 8.46 (dd, J=8.2, 1.8 Hz, 1H), 8.02 (d, J=8.5 Hz, 1H), 7.70 (s, 1H), 7.41-7.37 (m, 2H), 6.97-6.93 (m, 2H), 4.89 (d, J=7.2 Hz, 1H), 4.49-4.44 (m, 1H), 4.06-3.67 (m,8), 2.52 (s, 3H), 1.56 (dd, J=14.3, 3.0 Hz, 1H), 1.42 (dd, J=14.3, 8.8 Hz, 1H), 0.97 (s, 9H)

reactant | 2-(7-Methyl-4-(piperazin-1-yl)quinazolin-2-yl)phenol | 0.74 mmol, 250 mg | CC1=CC=C2C(=NC(=NC2=C1)C1=C(C=CC=C1)O)N1CCNCC1 | C19H20N4O
reactant | (R)-2-hydroxy-4,4-dimethylpentanoic acid | 0.858 mmol, 125.4 mg | O[C@@H](C(=O)O)CC(C)(C)C | C7H14O3
reactant | triethylamine | 1.56 mmol, 0.218 mL | C(C)N(CC)CC | C6H15N
reactant | HATU | 0.936 mmol, 356 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (R)-2-hydroxy-1-(4-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperazin-1-yl)-4,4-dimethylpentan-1-one | 265 mg, 76% | O[C@@H](C(=O)N1CCN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)CC(C)(C)C | C26H32N4O3
